US05780482
A mixture of ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (2.0 g), 5-aminopyrimidine-2,4-diol (0.86 g) and IMS (25 ml) was boiled under reflux for 3 hours. The mixture was concentrated to approximately 15 ml, then cooled at 0° C. The mixture was filtered to give ethyl 4-(2,4-dihydroxy-5-pyrimidinylamino)-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate hemihydrochloride dihydrate, m.p. 250° C. Active (1/1) at 30 mg/kg.

reactant | ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 2.0 g | ClC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC | C14H15ClN2O3
reactant | 5-aminopyrimidine-2,4-diol | 0.86 g | NC=1C(=NC(=NC1)O)O | C4H5N3O2
product | ethyl 4-(2,4-dihydroxy-5-pyrimidinylamino)-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate hemihydrochloride dihydrate | O.O.Cl.OC1=NC=C(C(=N1)O)NC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC.C(C)OC(=O)C=1C=NC2=NC(=C(C=C2C1NC=1C(=NC(=NC1)O)O)OCC)C.O.O | InChI=1S/2C18H19N5O5.ClH.4H2O/c2*1-4-27-13-6-10-14(22-12-8-20-18(26)23-16(12)24)11(17(25)28-5-2)7-19-15(10)21-9(13)3;;;;;/h2*6-8H,4-5H2,1-3H3,(H,19,21,22)(H2,20,23,24,26);1H;4*1H2
